US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-bromo-pyridin-3-ylmethyl)-amide (4)
A mixture of 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid chloride (416 mg, 1.51 mmol), 6-bromo-pyridin-3-yl-methylamine (311 mg, 1.66 mmol) and DMAP (18.5 mg, 0.151 mmol) in DCM (10 mL) was treated with DIEA (1.32 mL, 7.56 mmol). The solution was stirred at room temperature. After 16 hours the mixture was diluted with DCM (30 mL). The organic layer was washed with saturated aqueous NH4Cl (2×10 mL), saturated aqueous NaHCO3 (2×10 mL), water (10 mL), brine (10 mL) and dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 0-50% ethyl acetate in hexanes to afford the title compound as a white solid.

reactant | 1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid chloride | 1.51 mmol, 416 mg | FC1=CC=C(C=C1)N1N=CC=2C(=CC=CC12)C(=O)Cl | C14H8ClFN2O
reactant | 6-bromo-pyridin-3-yl-methylamine | 1.66 mmol, 311 mg | BrC1=CC=C(C=N1)NC | C6H7BrN2
reactant | DIEA | 7.56 mmol, 1.32 mL | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMAP | 0.151 mmol, 18.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluoro-phenyl)-1H-indazole-4-carboxylic acid (6-bromo-pyridin-3-ylmethyl)-amide | BrC1=CC=C(C=N1)CNC(=O)C=1C=2C=NN(C2C=CC1)C1=CC=C(C=C1)F | C20H14BrFN4O
